US05498774
Synthesis of 2-chloromethylimidazo[1,2-a]-pyridine-8-carboxylic acid (Compound No. 1-90)
Ethyl 2-chloromethylimidazo[1,2-a]pyridine-8-carboxylate (8.4 g, 35.2 m moles) was added to conc. hydrochloric acid 1100 ml), and the mixture was refluxed under heating for 5 hours. The reaction mixture was cooled to room temperature and adjusted to pH 4 with saturated aqueous solution of sodium bicarbonate. The precipitating crystals were collected by filtration to give the object compound (5.67 g, yield 98.4%) as crystal. m.p. 250° C. (decomp.).

reactant | Ethyl 2-chloromethylimidazo[1,2-a]pyridine-8-carboxylate | 8.4 g | ClCC=1N=C2N(C=CC=C2C(=O)OCC)C1 | C11H11ClN2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 1100 ml | Cl | ClH
product | 2-chloromethylimidazo[1,2-a]-pyridine-8-carboxylic acid | 5.67 g, yield 98.4% | ClCC=1N=C2N(C=CC=C2C(=O)O)C1 | C9H7ClN2O2
